US08685969B2
3. Benzyl 3-(2-amino-1-(2-fluorophenyl)ethyl)-1H-indol-6-ylcarbamate
A mixture of benzyl 3-(1-(2-fluorophenyl)-2-nitroethyl)-1H-indol-6-ylcarbamate (0.600 g, 1.384 mmol), zinc (1.358 g, 20.76 mmol), and ammonium chloride (1.111 g, 20.76 mmol) in tetrahydrofuran (30 mL) and methanol (30.0 mL) was stirred at room temperature for 2 hr. The insoluble material was removed by suction filtration through CELITE®. The filtrate was concentrated under vacuum. The residue was diluted with ethyl acetate (100 mL), washed with 10% NaHCO3 solution (25 mL) and brine (25 mL), and dried over anhydrous MgSO4. Removal of solvent under vacuum provided the desired product (0.586 g, 1.322 mmol, 95% yield) as a pale white solid.

reactant | benzyl 3-(1-(2-fluorophenyl)-2-nitroethyl)-1H-indol-6-ylcarbamate | 1.384 mmol, 0.600 g | FC1=C(C=CC=C1)C(C[N+](=O)[O-])C1=CNC2=CC(=CC=C12)NC(OCC1=CC=CC=C1)=O | C24H20FN3O4
reactant | ammonium chloride | 20.76 mmol, 1.111 g | [Cl-].[NH4+]
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
solvent | methanol | 30.0 mL | CO | CH4O
catalyst | zinc | 20.76 mmol, 1.358 g | [Zn] | Zn
product | Benzyl 3-(2-amino-1-(2-fluorophenyl)ethyl)-1H-indol-6-ylcarbamate | 1.322 mmol, 0.586 g, 95% yield | NCC(C1=C(C=CC=C1)F)C1=CNC2=CC(=CC=C12)NC(OCC1=CC=CC=C1)=O | C24H22FN3O2
